US04009208
30. N,N'-Heptamethylenebis(4-cyclopentyloxybenzamide)
m.p. 153°-154° C., 18.8 g., was prepared as in Example 29 using 18.5 g. of N,N'-heptamethylenebis(4-hydroxybenzamide), 29.8 g. of cyclopentyl bromide, 20.7 g. of potassium carbonate, 500 ml. of isoamyl alcohol and recrystallization from acetonitrile.

reactant | N,N'-heptamethylenebis(4-hydroxybenzamide) | OC1=CC=C(C(=O)NCCCCCCCNC(C2=CC=C(C=C2)O)=O)C=C1 | C21H26N2O4
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | N,N'-Heptamethylenebis(4-cyclopentyloxybenzamide) | C1(CCCC1)OC1=CC=C(C(=O)NCCCCCCCNC(C2=CC=C(C=C2)OC2CCCC2)=O)C=C1 | C31H42N2O4
